US08729066B2
N-{5-chloro-2[(2-thienylsulfonyl)amino]phenyl}-1-benzofuran-2-sulfonamide
To a solution of N-(2-amino-4-chlorophenyl)thiophene-2-sulfonamide (CAS RN: 926205-90-5) (140 mg, ˜0.47 mmol) in pyridine (2.5 ml) was added benzofuran-2-sulfonyl chloride (102 mg, 0.47 mmol) and the mixture was stirred at room temperature for 16 h. More benzofuran-2-sulfonyl chloride (51 mg, 0.24 mmol) was added and the reaction was stirred for another 24 h, concentrated in vacuo to remove most of solvent. The residual thick syrup was quenched with 6M HCl and diluted with H2O. The resulting suspension was filtered and washed with H2O (×3). The crude product was purified by flash column chromatography on silica gel (25-50% EtOAc-hexane) to yield 43 mg of product slightly contaminated with impurities. This material was triturated with CH2Cl2 to form a sandy colored solid, which was filtered and rinsed with minimal amount of CH2Cl2 to yield 23 mg (10%) of Compound 24.

reactant | N-(2-amino-4-chlorophenyl)thiophene-2-sulfonamide | ˜0.47 mmol, 140 mg | NC1=C(C=CC(=C1)Cl)NS(=O)(=O)C=1SC=CC1 | C10H9ClN2O2S2
reactant | benzofuran-2-sulfonyl chloride | 0.47 mmol, 102 mg | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
reactant | benzofuran-2-sulfonyl chloride | 0.24 mmol, 51 mg | O1C(=CC2=C1C=CC=C2)S(=O)(=O)Cl | C8H5ClO3S
solvent | pyridine | 2.5 ml | N1=CC=CC=C1 | C5H5N
product | N-{5-chloro-2[(2-thienylsulfonyl)amino]phenyl}-1-benzofuran-2-sulfonamide | 43 mg | ClC=1C=CC(=C(C1)NS(=O)(=O)C=1OC2=C(C1)C=CC=C2)NS(=O)(=O)C=2SC=CC2 | C18H13ClN2O5S3
